* M01 controlled Xyce B-source scalar self-test; not a project device
Vctrl nin 0 1.0
Btest nout 0 V={limit(V(nin),0,2)+sgn(V(nin))*0.25}
Vsense nout nload 0
Rload nload 0 1k
.DC Vctrl 1 1 1
.PRINT DC FORMAT=CSV V(nout) I(Vsense)
.END
